US05354502
37 g (0.19 mol) of trans-4-butylcyclohexyl acetic acid was dispersed in 190 cm) of anhydrous toluene, 160 cm3 (0.57 mol) of 70% of NaAlH2 (OC2H4OCH3)2 in toluene was added dropwise while stirring at a rate where the toluene refluxed quietly, after which it was stirred for 3 hours on a 90° C. hot water bath. The reactant was cooled to room temperature, 40 cm3 of water and 500 cm3 of 15% HCl were added dropwise while stirring, the oily layer was taken off, and the water layer was extracted with toluene, combined with the oily layer and washed with 10% HCl and water. The toluene was removed, and the remaining oily substance was distilled under reduced pressure (b. p. 103° C./3 mmHg) to obtain 31 g (0.17 mol) of 2-(trans-4'-butylcyclohexyl)ethanol.

reactant | trans-4-butylcyclohexyl acetic acid | 0.19 mol, 37 g | C(CCC)[C@@H]1CC[C@H](CC1)CC(=O)O | C12H22O2
reactant | water | 40 cm3 | O | H2O
reactant | HCl | 500 cm3 | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(trans-4'-butylcyclohexyl)ethanol | 0.17 mol, 31 g | C(CCC)[C@@H]1CC[C@H](CC1)CCO | C12H24O
